US07799812B2
b) 4-[3-(2-Trifluoromethyl-biphenyl-4-yl)-isoxazol-5-yl]-phenylamine
To a solution of 2-trifluoromethyl-biphenyl-4-carbaldehyde oxime (1 eq) in CH2Cl2 a 10% aqueous solution of NaOCl is added at 0° C. Thereafter a solution of 4-ethynylaniline (1.1 eq) is added and then the reaction mixture is stirred at room temperature for 16 hours. The reaction mixture is diluted with CH2Cl2 and 3 times extracted with water. The combined organic layers are dried over Na2SO4, filtered and concentrated. Purification is achieved, after drying over Na2SO4, over silica gel using c-hexane/ethyl acetate 9/1→7/3 as mobile phase.

reactant | 2-trifluoromethyl-biphenyl-4-carbaldehyde oxime | 1 eq | FC(C1=C(C=CC(=C1)C=NO)C1=CC=CC=C1)(F)F | C14H10F3NO
reactant | NaOCl | [O-]Cl.[Na+]
reactant | 4-ethynylaniline | 1.1 eq | C(#C)C1=CC=C(N)C=C1 | C8H7N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(2-Trifluoromethyl-biphenyl-4-yl)-isoxazol-5-yl]-phenylamine | FC(C1=C(C=CC(=C1)C1=NOC(=C1)C1=CC=C(C=C1)N)C1=CC=CC=C1)(F)F | C22H15F3N2O
